US05318626
1 Mole of 1,4-cyclohexanedione-2,5-di(methyl carboxylate), methanol whose weight was 10 times the weight of the 1,4-cyclohexanedione-2,5-di(methyl carboxylate), 2.53 mol of p-toluidine and 0.1 mol of hydrochloric acid were allowed to react at 65°-100° C. for 3 hours while they were substantially not in contact with oxygen, and the formed product was recovered by filtration and washed. This product was further heated to 250°-268° C. in a dimethylnaphthalene isomer mixture while it was substantially not in contact with oxygen, and the resultant product was recovered by filtration and washed. Added thereto were ethylene glycol monoethyl ether whose amount was 7 times the weight thereof and 50% caustic soda in such an amount that was 18% based on the total amount of the mixture. Then, sodium m-nitrobenzenesulfonate was added for oxidation, and the formed product was recovered by filtration and washed to give a crude 2,9-dimethylquinacridone having a purity of at least 99%. The crude 2,9-dimethylquinacridone obtained in this Referential Example was used in the following Examples.

reactant | p-toluidine | 2.53 mol | NC1=CC=C(C=C1)C | C7H9N
reactant | hydrochloric acid | 0.1 mol | Cl | ClH
reactant | oxygen | O=O | O2
reactant | methanol | CO | CH4O
product | 2,9-dimethylquinacridone | CC1=CC2=C(C=C1)NC3=CC4=C(C=C3C2=O)NC5=C(C4=O)C=C(C=C5)C | C22H16N2O2
